US03957766
Preparation of 3-(5-Nitro-2-furyl)-6-(2-methyl-5-pyrimidinylamino-methylene)-amino-s-triazolo[4,3-b]pyridazine.
In an analogous manner, from 0.6 g. 3-(5-nitro-2-furyl)-6-(ethoxy-methylene)-amino-s-triazolo[4,3-b]pyridazine in 12 ml. anhydrous dioxan and an ethanolic solution of hydroxylamine (prepared from 0.6 g. hydroxylamine hydrochloride in 15 ml. absolute ethanol by adding 0.14 g. sodium, dissolved in 5 ml. absolute ethanol, and filtering off with suction the precipitated sodium chloride) at 50° - 60°C., there was obtained, after a reaction period of 15 minutes and cooling of the reaction mixture, 0.55 g. 3-(5-nitro-2-furyl)-6-(hydroxylaminomethylene)-amino-s-triazolo[4,3-b]pyridazine, which melted, with foaming, at 251° - 253°C.

reactant | 3-(5-nitro-2-furyl)-6-(ethoxy-methylene)-amino-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CC=C(O1)C1=NN=C2N1NC(C(=C2)N)=COCC | C12H12N6O4
reactant | hydroxylamine | NO | H3NO
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium | [Na] | Na
reactant | 3-(5-nitro-2-furyl)-6-(hydroxylaminomethylene)-amino-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CC=C(O1)C1=NN=C2N1NC(C(=C2)N)=CNO | C10H9N7O4
solvent | ethanol | C(C)O | C2H6O
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 3-(5-Nitro-2-furyl)-6-(2-methyl-5-pyrimidinylamino-methylene)-amino-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CC=C(O1)C1=NN=C2N1NC(C(=C2)N)=CNC=2C=NC(=NC2)C | C15H13N9O3
